US07960369B2
3-[4-({4-[(propyl{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}oxy)phenyl]propanoic acid
To a solution of N-propyl-4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-amine hydrobromide (477 mg) in N,N-dimethylformamide (10 mL) was added sodium hydride (60%, oil, 104 mg) at 0° C., the temperature was raised to room temperature and the mixture was stirred for 30 min. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (318 mg) was added to the reaction mixture at 0° C., the temperature was raised to room temperature and the mixture was stirred for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated, and the residue was purified by silica gel column chromatography with ethyl acetate-hexane (gradient of 1:19 to 1:1 by volume ratio) to give a pale-yellow oil. This oil was dissolved in methanol (5 mL), 2N aqueous sodium hydroxide solution (5 mL) was added, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into 1N aqueous hydrochloric acid solution, and the precipitated solid was collected by filtration, washed successively with water and isopropyl ether and dried to give the title compound (230 mg, yield 42%) as colorless crystals.

reactant | N-propyl-4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-amine hydrobromide | 477 mg | Br.C(CC)NC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F
reactant | sodium hydride | 104 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 318 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 3-[4-({4-[(propyl{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}oxy)phenyl]propanoic acid | 230 mg, yield 42% | C(CC)N(C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C30H29F3N2O3S
